US05972978
Example 9 Naphthalene-2-carboxylic acid (5-amino-2H-[1,2,4]triazol-3-yl)-amide
A mixture of 2-naphthyl carboxylic acid (2.0 g, 11.6 mmol) and N,N'-carbonyldiimidazole (2.07 g, 12.8 mmol) in dry tetrahydrofuran (50 ml) was stirred at reflux temperature for 1 h. To the cooled reaction mixture was added 3,5-diamino-1,2,4-triazole (1.15 g, 11.6 mmol) and the resulting mixture was refluxed for 3 h. The cooled reaction mixture was quenched with water (75 ml) and extracted with diethyl ether (2×75 ml). The combined organic extracts were washed with saturated aqueous sodium chloride (2×50 ml), dried (MgSO4), filtered and evaporated in vacuo. The residue was crystallised from diethyl ether (20 ml), filtered off and washed with diethyl ether (2×10 ml), dried in vacuo afforded 0.95 g (32%) of the title compound as a solid.

reactant | 2-naphthyl carboxylic acid | 11.6 mmol, 2.0 g | C1=C(C=CC2=CC=CC=C12)C(=O)O | C11H8O2
reactant | 3,5-diamino-1,2,4-triazole | 11.6 mmol, 1.15 g | NC1=NNC(=N1)N | C2H5N5
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | Naphthalene-2-carboxylic acid (5-amino-2H-[1,2,4]triazol-3-yl)-amide | 0.95 g, 32% | NC=1N=C(NN1)NC(=O)C1=CC2=CC=CC=C2C=C1 | C13H11N5O
